US08895544B2
2-Iodo-1-(2-trimethylsilanyl-ethoxymethyl)-1,4,6,7-tetrahydro-imidazo[4,5-c]pyridine-5-carboxylic acid tert-butyl ester
To a solution of 2-iodo-1,4,6,7-tetrahydro-imidazo[4,5-c]pyridine-5-carboxylic acid tert-butyl ester (Preparation 21, 17.25 g, 49.4 mmol) in THF (250 mL) was added NaH (60% in paraffin oil, 2.08 g, 51.9 mmol) and the resulting solution was stirred at room temperature for 1.5 hours. The reaction mixture was cooled to 0° C. and SEM-Cl (9.18 mL, 51.9 mmol) was added dropwise. The reaction was stirred at room temperature for 18 hours, cooled to 0° C. and quenched carefully with water (500 mL). The resulting solution was extracted with EtOAc (2×500 mL) and the combined organics layers were dried over MgSO4, filtered through a pad of silica and concentrated in vacuo to give the title compound (23.4 g) in a 99% yield.

reactant | 2-iodo-1,4,6,7-tetrahydro-imidazo[4,5-c]pyridine-5-carboxylic acid tert-butyl ester | 49.4 mmol, 17.25 g | C(C)(C)(C)OC(=O)N1CC2=C(CC1)NC(=N2)I | C11H16IN3O2
reactant | NaH | 51.9 mmol, 2.08 g | [H-].[Na+]
reactant | SEM-Cl | 51.9 mmol, 9.18 mL | C[Si](C)(C)CCOCCl | C6H15ClOSi
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | 2-Iodo-1-(2-trimethylsilanyl-ethoxymethyl)-1,4,6,7-tetrahydro-imidazo[4,5-c]pyridine-5-carboxylic acid tert-butyl ester | 23.4 g, 99% yield | C(C)(C)(C)OC(=O)N1CC2=C(CC1)N(C(=N2)I)COCC[Si](C)(C)C | C17H30IN3O3Si
